US06822097B1
3-(2-Pyridin-4-yl-thiazol-4-yl)-7-pyrrolidin-1-ylmethyl-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and pyrrolidine to give a yellow solid. MS m/z: 389.2 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-(2-Pyridin-4-yl-thiazol-4-yl)-7-pyrrolidin-1-ylmethyl-1H-quinolin-2-one | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)CN1CCCC1)=O | C22H20N4OS
